US04328153
6-Bromo-7,8-dimethoxy-1-(p-methoxyphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide (3 g) is reacted with cyclohexylcarboxylic acid in the presence of sodium borohydride as in Example 1 to give 6-bromo-3-cyclohexylmethyl-7,8-dimethoxy-1-(p-methoxyphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine base and, after treatment with boron tribromide, 6-bromo-3-cyclohexylmethyl-7,8-dihydroxy-1-(p-hydroxyphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide.

reactant | 6-Bromo-7,8-dimethoxy-1-(p-methoxyphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide | 3 g | Br.BrC1=C(C(=CC=2C(CNCCC21)C2=CC=C(C=C2)OC)OC)OC
reactant | cyclohexylcarboxylic acid | C1(CCCCC1)C(=O)O | C7H12O2
reactant | sodium borohydride | [BH4-].[Na+]
product | 6-bromo-3-cyclohexylmethyl-7,8-dimethoxy-1-(p-methoxyphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine | BrC1=C(C(=CC=2C(CN(CCC21)CC2CCCCC2)C2=CC=C(C=C2)OC)OC)OC | C26H34BrNO3
